US07582775B2
D. 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-6-carboxylic acid methyl ester
A solution of 2-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid methyl ester (4.05 g, 11.0 mmol) and 1-bromopinacolone (2.36 g, 13.2 mmol) in acetone (100 mL) is treated with K2CO3 (3.04 g, 22.0 mmol) and stirred at RT for 16 h. The mixture is filtered, and the filtrate is concentrated. The residue is purified by silica gel column chromatography (10-15% EtOAc/Hex) to provide the title compound (4.50 g, 88%).

reactant | 2-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-6-carboxylic acid methyl ester | 11.0 mmol, 4.05 g | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC)C1 | C22H24O3S
reactant | 1-bromopinacolone | 13.2 mmol, 2.36 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 22.0 mmol, 3.04 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzo[b]thiophene-6-carboxylic acid methyl ester | 4.50 g, 88% | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C1 | C28H34O4S
